US08183380B2
1-(1-Benzyl-pyrrolidin-3-yl)-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, rac-1-benzyl-3-aminopyrrolidine and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=478.6 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | rac-1-benzyl-3-aminopyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 1-(1-Benzyl-pyrrolidin-3-yl)-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-urea | C(C1=CC=CC=C1)N1CC(CC1)NC(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C30H31N5O
